US08034812B2
Production of 4-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-methyl-1H-pyrazole-3-carboxamide
In the same manner as in Example 259 and using 4-chloro-1-methyl-1H-pyrazole-3-carboxylic acid (130 mg, 0.79 mmol), tetrahydrofuran (5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (170 μL, 2.0 mmol), N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.61 mmol) and N,N-dimethylacetamide (7 mL) as starting materials, the title compound (230 mg, 80%) was obtained as a white solid.

reactant | 4-chloro-1-methyl-1H-pyrazole-3-carboxylic acid | 0.79 mmol, 130 mg | ClC=1C(=NN(C1)C)C(=O)O | C5H5ClN2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 2.0 mmol, 170 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.61 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 7 mL | CN(C(C)=O)C | C4H9NO
product | 4-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-methyl-1H-pyrazole-3-carboxamide | 230 mg, 80% | ClC=1C(=NN(C1)C)C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)F | C21H17ClFN7O3
